US06680316B1
Preparation of 4-Benzylcarbamoyl-5,6-bis(4-methoxyphenyl)-2-cyclopropylmethyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-carboxy-2-cyclopropylmethyl-2H-pyridazin-3-one and benzylamine as starting materials, the procedures of Example 22 were repeated likewise, whereby the title compound was obtained quantitatively.

reactant | 5,6-bis(4-methoxyphenyl)-4-carboxy-2-cyclopropylmethyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CC1)=O)C(=O)O | C23H22N2O5
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 4-Benzylcarbamoyl-5,6-bis(4-methoxyphenyl)-2-cyclopropylmethyl-2H-pyridazin-3-one | C(C1=CC=CC=C1)NC(=O)C=1C(N(N=C(C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)CC1CC1)=O | C30H29N3O4
